US08008298B2
In a flask 0.11 gm (0.259 mM) 1-[2-(3-Hydroxy-phenyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one, 5 ml dichloromethane, 0.055 ml (0.316 mM) diisopropylethylamine and 0.0015 gm (0.012 mM) 4-dimethylaminopyridine were added. The mixture was chilled in an ice bath and 0.087 ml (0.285 mM) nonafluorobutanesulfonic anhydride was added. The mixture was allowed to warm to room temperature and stir over night. The mixture was diluted with additional dichloromethane, rinsed two times with water, dried over magnesium sulfate and purified by column chromatography (ethyl acetate/hexane) to give 0.15 gm (0.21 mM, 82% yield) 1,1,2,2,3,3,4,4,4-Nonafluoro-butane-1-sulfonic acid 3-[7-(2,2-dimethyl-propionyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-phenyl ester M+1 708.

reactant | 1-[2-(3-Hydroxy-phenyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | 0.259 mM, 0.11 gm | OC=1C=C(C=CC1)C=1N=C2C(=NC1)N(C=C2C(C(C)(C)C)=O)COCC[Si](C)(C)C | C23H31N3O3Si
reactant | diisopropylethylamine | 0.316 mM, 0.055 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | nonafluorobutanesulfonic anhydride | 0.285 mM, 0.087 ml | FC(C(C(C(S(=O)(=O)OS(=O)(=O)C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C8F18O5S2
catalyst | 4-dimethylaminopyridine | 0.012 mM, 0.0015 gm | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1,1,2,2,3,3,4,4,4-Nonafluoro-butane-1-sulfonic acid 3-[7-(2,2-dimethyl-propionyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-phenyl ester | 0.21 mM, 0.15 gm, 82% yield | CC(C(=O)C1=CN(C2=NC=C(N=C21)C=2C=C(C=CC2)OS(=O)(=O)C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)COCC[Si](C)(C)C)(C)C | C27H30F9N3O5SSi
